US07652180B2
Preparation of n-Tetradecyl Chloride in a Semicontinuous Process
A 1 l jacketed glass reactor with a glass paddle stirrer, an immersed tube for reactant metering and an attached water separator is initially charged with 200 g of N-n-octylalkylpyridinium chloride (prepared according to Example 2) as catalyst and adjusted to a temperature of 150° C. 243 g of n-tetradecanol are introduced uniformly via the immersed tube within 4.5 h. Over the entire reaction time, gaseous hydrogen chloride in a slight excess is metered in via the immersed tube, while the water of reaction formed is removed distillatively from the reaction mixture. The performance of the reaction and workup are analogous to Example 4a. After a total reaction time of 7.5 h, the conversion based on n-tetradecanol is 99.5%.

reactant | n-tetradecanol | 243 g | C(CCCCCCCCCCCCC)O | C14H30O
reactant | hydrogen chloride | Cl | ClH
solvent | water | O | H2O
product | n-Tetradecyl Chloride | C(CCCCCCCCCCCCC)Cl | C14H29Cl
